US08030499B2
Synthesis of (2S)-1-[1-{[2,5-bis (2,2,2-trifluoroethoxy)phenyl]sulfonyl}-5-chloro-3-(2-methoxyphenyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-N,N-dimethylpiperidine-2-carboxamide (levorotatory isomer)
With 200 mg of (2S)-1-[5-chloro-3-(2-methoxyphenyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-N,N-dimethylpiperidine-2-carboxamide, which is the compound described in Preparation 3.49 (Isomer B) of the brochure No. WO01/98295, and 183 mg of 2,5-bis(2,2,2-trifluoroethoxy)benzene sulfonyl chloride as starting materials, 238 mg of the title compound (colorless amorphous) was obtained by a similar method to Example 2.

reactant | (2S)-1-[5-chloro-3-(2-methoxyphenyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-N,N-dimethylpiperidine-2-carboxamide | 200 mg | ClC=1C=C2C(C(NC2=CC1)=O)(C1=C(C=CC=C1)OC)N1[C@@H](CCCC1)C(=O)N(C)C | C23H26ClN3O3
reactant | 2,5-bis(2,2,2-trifluoroethoxy)benzene sulfonyl chloride | 183 mg | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)S(=O)(=O)Cl)(F)F | C10H7ClF6O4S
product | (2S)-1-[1-{[2,5-bis (2,2,2-trifluoroethoxy)phenyl]sulfonyl}-5-chloro-3-(2-methoxyphenyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-N,N-dimethylpiperidine-2-carboxamide | 238 mg | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)S(=O)(=O)N1C(C(C2=CC(=CC=C12)Cl)(C1=C(C=CC=C1)OC)N1[C@@H](CCCC1)C(=O)N(C)C)=O)(F)F | C33H32ClF6N3O7S
